US06352993B1
5,6-dimethyl-2-(cyclopentylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After cyclopentylamine(0.27 ml, 2.7 mmol) and triethylamine(0.38 ml, 2.7 mmol) were added to a solution of 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine(0.5 g, 1.8 mmol) in dimethylformamide, 270 mg of the titled compound was obtained in accordance with the same procedure as in Example 1.

reactant | cyclopentylamine | 2.7 mmol, 0.27 ml | C1(CCCC1)N | C5H11N
reactant | triethylamine | 2.7 mmol, 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine | 1.8 mmol, 0.5 g | ClC1=NC(=C(C(=N1)N1CC2=CC=CC=C2CC1)C)C | C15H16ClN3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(cyclopentylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 270 mg, Yield: 41.8% | Cl.CC=1C(=NC(=NC1C)NC1CCCC1)N1CC2=CC=CC=C2CC1 | InChI=1S/C20H26N4.ClH/c1-14-15(2)21-20(22-18-9-5-6-10-18)23-19(14)24-12-11-16-7-3-4-8-17(16)13-24;/h3-4,7-8,18H,5-6,9-13H2,1-2H3,(H,21,22,23);1H
